Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],5.16875991122
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.30166873581
[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],6.64098453921
[C:1].[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.98574879388
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4]#[C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],2.48834874125
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5]([H:6])[H:7],0.8311919034199999
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9],-5.73727544962
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:8],3.99695357773
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],2.52110950404
[H:3].[O:1]=[C:2]=[C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.45042421879
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[O:11][H:12],2.03270374441
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])\[C:10]([H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-1.71101911549
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5](=[C:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.620152085610001
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10][H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])=[C:10]([H:11])[C:12]1([H:13])[H:14],-3.1675448486799995
[H:1][C:2][O:3][C:4]([H:5])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-3.50240235457
[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.35067758308
[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.55982022655
[C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.88210354102
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.40936252
[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1>>[H:1][C:2](=[O:3])[O:10][C:5](=[C:4])[C:6]([H:7])([H:8])[H:9],1.2905998088
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([H:10])(=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],1.23019061464
[C:1]=[C:2]([H:3])[O:4][C:5]#[C:6]>>[C:1]#[C:2][H:3].[O:4][C:5][C:6],-0.1372124825
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],3.91172703547
[H:10].[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.61390929834
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.05115803331
[H:1][O:2][C:3]/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.74543040818
[C:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-2.37613146273
[H:1][C:2]#[C:3][C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],1.99035539998
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.99694984868
